Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:6]([C:5]([H:3])([O:4]/[C:2]=[C:12](/[C:8]([H:9])([H:10])[H:11])[H:13])[H:14])[H:7]>>[H:1][C:2]1([H:3])[O:4][C:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-2.28606128155
[H:1][C:2]#[C:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.81394943771
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],3.98384354767
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],0.427497620001
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.1239502969
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.96820759488
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.09516689438
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])=[C:11]([H:12])[H:13],2.2380923497
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8][H:9],5.131069929380001
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.58508411078
[H:1][C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.0098282374
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:6]#[C:7][H:8].[H:1][C:2]#[C:3][C:4]([H:5])[O:9][H:10],4.584492797619999
[H:17].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-1.89390928246
[H:1][C:2]([H:3])=[C:4]1[O:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4](=[O:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11],-3.1666684129
[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-7.456360952180001
[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.10702821486
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],4.76970448519
[C:1]#[C:2][O:5][C:6]#[C:7][H:8].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8],-4.51186012346
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12]>>[C:10]#[C:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.9045484134300015
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9].[O:10][H:11],2.68579989023
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:13]([H:14])[H:15].[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],-2.7856371243700004
[H:10].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.97274747483
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.80080947625
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],3.07147960982
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.446187318557
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.2120634716100005
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])[H:10],3.00745813939
[C:1]=[C:2]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[C:3]([H:4])([H:5])[H:6]>>[C:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.31434897975
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]=[C:3]1[C:4]([H:5])[C@@:6]1([H:7])[O:8][H:9],1.0521473326200002
